US06855774B2
20 g (34.7 mmol) of 2,2-bis[N-(2-nitrophenyl)-(3-aminophenyl)]hexafluoropropane synthesized above were dissolved in 200 ml of ethyl acetate. Thereto was added 1 g of 10% palladium carbon as a catalyst, and replacement with hydrogen was carried out. After that, reaction was conducted at room temperature under a hydrogen pressure of 1.01 MPa (10 atm) for 18 hours with stirring vigorously. The obtained reaction solution was filtered with cerite to remove the catalyst, and ethyl acetate was removed under reduced pressure. The residue was recrystallized by using a chloroform-hexane mixed solution, and ethanol-water mixed solution to obtain 17 g of 2,2-bis[N-(2-aminophenyl)-(3-aminophenyl)]hexafluoropropane (hereinafter mNPN-AF) in white solid(yeild: 95%).

reactant | 2,2-bis[N-(2-nitrophenyl)-(3-aminophenyl)]hexafluoropropane | 34.7 mmol, 20 g | [N+](=O)([O-])C1=C(C=CC=C1)NC=1C=C(C=CC1)C(C(F)(F)F)(C(F)(F)F)C1=CC(=CC=C1)NC1=C(C=CC=C1)[N+](=O)[O-] | C27H18F6N4O4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium carbon | 1 g | [C].[Pd]
product | 2,2-bis[N-(2-aminophenyl)-(3-aminophenyl)]hexafluoropropane | 17 g | NC1=C(C=CC=C1)NC=1C=C(C=CC1)C(C(F)(F)F)(C(F)(F)F)C1=CC(=CC=C1)NC1=C(C=CC=C1)N | C27H22F6N4
